US07902187B2
2-amino-6-chloro-9-(trans-4-methoxycyclohexyl)-7H-purin-8(9H)-one.
To a solution of 6-chloro-N4-(trans-4-methoxycyclohexyl)pyrimidine-2,4,5-triamine (5.5 g, 20.36 mmol) in 300 mL of anhydrous THF (use oven dried glassware) was added 1,1-carbonyldiimidazole (newly opened bottle, 19.8 g, 122.2 mmol, 6 equiv.) as a solid, in portions. The reaction mixture was stirred at room temperature for 2 h (completion of the reaction checked by HPLC and MS). The solvent was removed in vacuo. Water (250 mL) was added to the residue and the mixture stirred at room temperature for 10 min. The solid formed was filtered under vacuum, washed with cold water and thoroughly dried to give the desired product as a brown solid (67% yield), which was used in the next step without further purification. MS (EI) m/z 298 (MH)+.

reactant | 6-chloro-N4-(trans-4-methoxycyclohexyl)pyrimidine-2,4,5-triamine | 20.36 mmol, 5.5 g | ClC1=C(C(=NC(=N1)N)N[C@@H]1CC[C@H](CC1)OC)N | C11H18ClN5O
reactant | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-amino-6-chloro-9-(trans-4-methoxycyclohexyl)-7H-purin-8(9H)-one | 67% yield | NC1=NC(=C2NC(N(C2=N1)[C@@H]1CC[C@H](CC1)OC)=O)Cl | C12H16ClN5O2
